US04007282
4,4-Bis(4'-hydroxy-phenyl)pentanoic acid
376 g of phenol (4 mols), 116 g of levulinic acid (1 mol) and 0.4 ml of ethyl mercaptan were condensed, while stirring and simultaneously feeding in hydrogen chloride, for about 48 hours at 30°-40° C. The viscous reaction solution was taken up in ether and the ether phase was washed first with a sodium bicarbonate solution and then with water. After the ether had been eliminated, a brittle resin-like solid was obtained, m.p. 171°-173° C.

reactant | phenol | 4 mols, 376 g | C1(=CC=CC=C1)O | C6H6O
reactant | levulinic acid | 1 mol, 116 g | C(CCC(=O)C)(=O)O | C5H8O3
reactant | ethyl mercaptan | 0.4 ml | C(C)S | C2H6S
solvent | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 4,4-Bis(4'-hydroxy-phenyl)pentanoic acid | OC1=CC=C(C=C1)C(CCC(=O)O)(C)C1=CC=C(C=C1)O | C17H18O4
